### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Norm): Generalize `Ideal.finite_setOf_absNorm_eq` and add `Ideal.finite_setOf_absNorm_le`

### PR DESCRIPTION
**Pull request by xroblot**
Also:
- prove some results about the norm of `nonZeroDivisors` ideals
- golf the proof of Dirichlet unit theorem using the generalization
- clean up the import of `RingTheory.Ideal.Norm`

This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Norm.lean [hunk 1]
```diff
@@ -391,24 +387,66 @@ theorem absNorm_eq_zero_iff {I : Ideal S} : Ideal.absNorm I = 0 ↔ I = ⊥ := b
...
-    rw [← comap_map_mk (span_singleton_absNorm_le I), ← hI.symm, ←
-      comap_map_mk (span_singleton_absNorm_le J), ← hJ.symm]
-    congr
+  obtain hn | hn := Nat.eq_zero_or_pos n
+  · simp only [hn, absNorm_eq_zero_iff, Set.setOf_eq_eq_singleton, Set.finite_singleton]
+  · let f := fun I : Ideal S => Ideal.map (Ideal.Quotient.mk (@Ideal.span S _ {↑n})) I
+    refine @Set.Finite.of_finite_image _ _ _ f ?_ ?_
+    · suffices Finite (S ⧸ @Ideal.span S _ {↑n}) by
+        let g := ((↑) : Ideal (S ⧸ @Ideal.span S _ {↑n}) → Set (S ⧸ @Ideal.span S _ {↑n}))
+        refine @Set.Finite.of_finite_image _ _ _ g ?_ SetLike.coe_injective.injOn
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Norm.lean:412]: Can you use the `( ... := ...)` notation here, to avoid `@`?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
